Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
leg pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ with no significant past medical history, presenting with
persistent right lower extremity pain and right leg swelling,
found to have acute DVT in the right external iliac vein, right
common femoral vein and superficial femoral vein.

Patient initially presented to the ED on ___ with a three day
history of right hip pain. No inciting events, and specifically
no trauma. Pain radiated down right leg and calf, but not to 
foot
and was sharp in nature. Denied weakness, neurological deficits
and sensation changes. Worse with movement and ambulation, but
was able to bear weight. No history of recent fevers, IV drug
use, rashes, and unprotected sexual intercourse. X-ray without
evidence of fracture at hip. Pain responded to APAP and
ketorolac, and patient was discharged home.

Represented to ED on ___ with worsening of pain since 
discharge
home. Also noticed erythema and swelling of his right lower
extremity which had not been present previously. Continued to
deny neurological symptoms or weakness. 
 
In the ED, initial vital signs were;
Temp 98.5  HR 98  BP 137/89  RR 19  SaO2 99% RA 

Examination was notable for mild swelling of the right lower
extremity compared to the left but not pronounced. Distal pulses
were palpable. Strength and sensation normal throughout. Full 
ROM
at right hip and knee.

Labs were notable for;
WBC 11.4  Hgb 14.6  Plt 173
BUN 11  Cr 0.8  Na 143  K 4.2  Cl 102  HCO3 28
CK 73 

Bilateral lower extremity ultrasound demonstrated acute DVT
within the right external iliac vein, right common femoral vein 
and superficial femoral vein, with sluggish flow within the 
right
popliteal vein which remains patent. 

Patient was started on a weight-based heparin drip protocol.

Vitals on transfer were;
Temp 99.6  HR 68  BP 126/70  RR 16  SaO2 100% RA  

Upon arrival to the floor, the patient repeats the above story.
Also adds he had two five hour train journeys in recent weeks.
Continues to have ongoing ___ pain in right lower extremity,
but otherwise feels swelling and erythema have improved.  
 
Review of systems as per HPI, but otherwise negative.
 
Past Medical History:
None
 
Social History:
___
Family History:
Father has history of two DVTs in lower extremities, seemingly
provoked in the setting of plane journeys. Unclear if diagnosis
of thrombophilia was ever made. Currently on lifelong
rivaroxaban.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: Temp 100.0  BP 132/81  HR 66  RR 18  SaO2 98% RA 
GENERAL: well appearing, no obvious distress
HEENT: AT/NC, EOMI, PERRLA, no conjunctival pallor, anicteric
sclera, MMM
NECK: supple, non-tender, no LAD, JVP flat
CV: RRR, S1 and S2 normal, no murmurs/rubs/gallops
RESP: CTAB, no wheeze/crackles, breathing comfortably without 
use
of accessory muscles of respiration
___: soft, non-tender, no distention, BS normoactive
EXTREMITIES: right thigh with mild non-pitting edema when
compared to the left, with associated mild erythema in lower
thigh, no pain on palpation, but mild discomfort with ROM
although not limited
SKIN: no rashes/lesions
NEURO: A/O x3, CN II-XII intact, strength ___ in all 
extremities,
sensation intact

DISCHARGE PHYSICAL EXAM:
DISCHARGE PHYSICAL EXAM:
VITALS: 
___ 1128 Temp: 98.3 PO BP: 118/69 HR: 64 RR: 16 O2 sat: 97%
O2 delivery: Ra 
GENERAL: well appearing, no obvious distress
HEENT: AT/NC, EOMI, PERRLA, no conjunctival pallor, anicteric
sclera, MMM
NECK: supple, non-tender, no LAD, JVP flat
CV: RRR, S1 and S2 normal, no murmurs/rubs/gallops
RESP: CTAB, no wheeze/crackles, breathing comfortably without 
use
of accessory muscles of respiration
___: soft, non-tender, no distention, BS normoactive
EXTREMITIES: right thigh with non-pitting edema compared to the
left, pain to palpation of R calf and thigh, L non-tender
SKIN: no rashes/lesions
LYMPH: No cervical chain, axillary, epitrochlear, inguinal LAD
GU: Testicles with normal overlying scrotum, testicular size
normal, no abnormalities noted.
NEURO: A/O x3, CN II-XII intact, strength ___ in all 
extremities,
sensation intact
 
Pertinent Results:
ADMISSION LABS:
==============
___ 03:55PM BLOOD WBC-11.4* RBC-5.05 Hgb-14.6 Hct-44.3 
MCV-88 MCH-28.9 MCHC-33.0 RDW-12.4 RDWSD-39.6 Plt ___
___ 03:55PM BLOOD Neuts-74.5* Lymphs-17.4* Monos-5.5 
Eos-1.8 Baso-0.4 Im ___ AbsNeut-8.50* AbsLymp-1.99 
AbsMono-0.63 AbsEos-0.20 AbsBaso-0.05
___ 06:18PM BLOOD ___ PTT-32.9 ___
___ 03:55PM BLOOD Glucose-82 UreaN-11 Creat-0.8 Na-143 
K-4.2 Cl-102 HCO3-28 AnGap-13
___ 03:55PM BLOOD CK(CPK)-73

PERTINENT LABS:
=============
___ 08:50AM BLOOD CARDIOLIPIN ANTIBODIES (IGG, IGM)-Test    
  
___ 08:50AM BLOOD BETA-2-GLYCOPROTEIN 1 ANTIBODIES (IGA, 
IGM, IGG)-PND
___ 04:15PM BLOOD Lupus-UNABLE TO 

DISCHARGE LABS:
==============
___ 08:50AM BLOOD WBC-13.2* RBC-4.82 Hgb-14.1 Hct-42.3 
MCV-88 MCH-29.3 MCHC-33.3 RDW-12.3 RDWSD-39.8 Plt ___
___ 08:50AM BLOOD Glucose-98 UreaN-7 Creat-0.7 Na-142 K-4.2 
Cl-102 HCO3-26 AnGap-14
___ 08:50AM BLOOD Calcium-9.3 Phos-3.7 Mg-1.9

IMAGING REPORTS:
===============
UNILAT LOWER EXT VEINS ___:
IMPRESSION:
1. Acute DVT within the right external iliac vein, right common 
femoral vein
and superficial femoral vein.  Sluggish flow within the right 
popliteal vein
which remains patent.
2. No DVT within the left leg.
 
Brief Hospital Course:
___ with no significant past medical history, presenting with 
persistent right lower extremity pain and right leg swelling, 
found to have acute unprovoked DVT in the right external iliac 
vein, right common femoral vein and superficial femoral vein. 
Patient without respiratory symptoms. Started on heparin gtt 
with dramatic improvement in lower extremity pain and swelling. 
Prior to discharge, patient was transitioned to rivaroxaban at 
time of discharge with close follow up being coordinated with 
Dr. ___. 

TRANSITIONAL ISSUES:
====================
-New Medications: Rivaroxiban (Xarelto) 15mg BID x21 days; then 
20mg daily. 
-Close follow up with hematology currently being arranged with 
___.
-Patient will undergo outpatient workup for hypercoagulable 
state. 
-Patient advised to AVOID contact sports while on 
anticoagulation. 
 
Medications on Admission:
NONE
 
Discharge Medications:
1.  Rivaroxaban 15 mg PO BID  X 21 DAYS THEN 20 MG DAILY

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
deep vein thrombosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___,

WHY WAS I ADMITTED TO THE HOSPITAL?
- You were having significant pain in your right leg and groin
- You were found to have a blood clot in the veins in your leg

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
- You were started on IV medications to thin your blood and 
treat your blood clot
- You were transitioned to an oral blood thinner to treat your 
blood clots.

WHAT SHOULD I DO WHEN I LEAVE THE HOSPITAL?
- Please take your medications as listed. Specifically, you will 
be taking a medication called Xarelto (rivaroxaban). You will 
need to take this medication twice a day with food for 21 days. 
After that, you will take it daily. 
- Please follow up with your primary care doctor
- Please follow up with our blot clot specialist, Dr. ___ 
___, at 9AM on ___, at the Division of Hemostasis and 
Thrombosis, ___ floor of ___. The number for 
their office is ___.

It was a pleasure taking care of you, we wish you all the best,

your ___ medical care team
 
Followup Instructions:
___